US04997840
A solution of sulphuryl chloride (20.6 ml) in dichloromethane (30 ml) was added dropwise over a period of 45 minutes to the solution of 2'-acetyl-5'-fluoro-N-methylformanilide whilst maintaining the temperature below 2° with ice/water cooling under a nitrogen atmosphere. The mixture was stirred for 3 hours maintaining the temperature below 2°. Water (80 ml) was added dropwise over 15 minutes maintaining the temperature below 10°. The dichloromethane layer was separated and dried over magnesium sulphate to give a solution of 2'-(2-chloroacetyl)-5'-fluoro-N-methylformanilide.

reactant | sulphuryl chloride | 20.6 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2'-acetyl-5'-fluoro-N-methylformanilide | C(C)(=O)C1=C(N(C=O)C)C=C(C=C1)F | C10H10FNO2
reactant | Water | 80 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2'-(2-chloroacetyl)-5'-fluoro-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=C(C=C1)F | C10H9ClFNO2
